US06002954
A solution of 9-((methylamino)methyl)anthracene (1.00 g, 4.5 mmol), 2-bromobenzyl bromide (1.13 g, 4.5 mmol) and K2CO3 (0.691 g, 5.0 mmol) in 50 mL of acetonitrile was refluxed under nitrogen for 18 hr. The solution was filtered on a sintered-glass filter and solvent was removed from the filtrate under reduced pressure to yield 9-(N-Methyl-N-(o-bromobenzyl)amino)methyl)anthracene (95% by NMR). The resulting solid was taken up in diethyl ether (50 mL), and treated at 0° C. with 1 equiv of butyllithium. The mixture was stirred at 0° C. for 2 h at which time 5 equiv of trimethyborate was added via a cannula. After warming the mixture to room temperature, 50 mL of water was added to quench the reaction. The ether layer was separated, washed with 3×10 mL water, and dried over sodium sulfate. Removal of the solvent under reduced pressure provided a solid identical to that obtained in (A) in 52% yield.

reactant | 9-((methylamino)methyl)anthracene | 4.5 mmol, 1.00 g | CNCC=1C2=CC=CC=C2C=C2C=CC=CC12 | C16H15N
reactant | 2-bromobenzyl bromide | 4.5 mmol, 1.13 g | BrC1=C(CBr)C=CC=C1 | C7H6Br2
reactant | K2CO3 | 5.0 mmol, 0.691 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | anthracene | 95% | C1=CC=CC2=CC3=CC=CC=C3C=C12 | C14H10
